US07696200B2
2-Fluoro-4-{[4-(5-fluoro-2-methyl-benzenesulfonyl)-3,4-dihydro-2H-benzo[1,4]oxazine-6-carbonyl]-amino}-benzoic acid, MS (ISP): m/e=487.1 (M−H), was prepared as described for example 21, steps 1 to 8. Step 7 was performed using 5-fluoro-2-methyl-benzenesulfonyl chloride and yielded 2-fluoro-4-{[4-(5-fluoro-2-methyl-benzenesulfonyl)-3,4-dihydro-2H-benzo[1,4]oxazine-6-carbonyl]-amino}-benzoic acid ethyl ester, which was hydrolyzed in step 8.

reactant | 2-Fluoro-4-{[4-(5-fluoro-2-methyl-benzenesulfonyl)-3,4-dihydro-2H-benzo[1,4]oxazine-6-carbonyl]-amino}-benzoic acid | FC1=C(C(=O)O)C=CC(=C1)NC(=O)C=1C=CC2=C(N(CCO2)S(=O)(=O)C2=C(C=CC(=C2)F)C)C1 | C23H18F2N2O6S
reactant | 5-fluoro-2-methyl-benzenesulfonyl chloride | FC=1C=CC(=C(C1)S(=O)(=O)Cl)C | C7H6ClFO2S
product | 2-fluoro-4-{[4-(5-fluoro-2-methyl-benzenesulfonyl)-3,4-dihydro-2H-benzo[1,4]oxazine-6-carbonyl]-amino}-benzoic acid ethyl ester | C(C)OC(C1=C(C=C(C=C1)NC(=O)C=1C=CC2=C(N(CCO2)S(=O)(=O)C2=C(C=CC(=C2)F)C)C1)F)=O | C25H22F2N2O6S
